US08232426B2
10.2 (5-Amino-pyridin-2-yl)-acetonitrile
To a mixture of (5-nitro-pyridin-2-yl)-acetonitrile (500 mg, 3.06 mmol) in concentrated aqueous HCl (3.1 ml) and ethanol (3.1 ml) at 0° C. SnCl2 (2.3 g, 10.11 mmol) was added. The mixture was allowed to come to room temperature and was stirred for 2 h. The mixture was partitioned between ethyl acetate and saturated aqueous NaHCO3. The aqueous layer was extracted three times with ethyl acetate and the combined organic layers were washed with brine, dried over MgSO4, filtered, and the solvent evaporated under reduced pressure to give the product as a brown oil (300 mg, 74%).

reactant | (5-nitro-pyridin-2-yl)-acetonitrile | 3.06 mmol, 500 mg | [N+](=O)([O-])C=1C=CC(=NC1)CC#N | C7H5N3O2
reactant | SnCl2 | 10.11 mmol, 2.3 g | Cl[Sn]Cl
solvent | HCl | 3.1 ml | Cl | ClH
solvent | ethanol | 3.1 ml | C(C)O | C2H6O
product | (5-Amino-pyridin-2-yl)-acetonitrile | 300 mg, 74% | NC=1C=CC(=NC1)CC#N | C7H7N3
